US07465815B2
3-(3-Formylphenyl)-4,6,7-trimethyl-1-benzofuran
To a solution of 3-(3-bromophenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran obtained in Reference Example 203 (1.77 g, 5.57 mmol) in THF (20 mL) was added dropwise n-butyllithium (1.6 M hexane solution, 4.18 mL, 6.68 mmol) under argon atmosphere at −78° C., and the mixture was stirred for 30 minutes. To the reaction solution was added dropwise DMF (0.86 mL, 11.14 mmol) at the same temperature, and the mixture was stirred for 30 minutes, and then was warmed to room temperature. Water was added to the reaction solution, which was extracted with ethyl acetate, and then the organic layer was dried over anhydrous sodium sulfate, was filtered, and then was concentrated under reduced pressure to give 1.48 g (yield is quantitative) of the title compound. Oily matter.

reactant | 3-(3-bromophenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran | BrC=1C=C(C=CC1)C1COC2=C1C(=CC(=C2C)C)C | C17H17BrO
reactant | n-butyllithium | 6.68 mmol, 1.6 M, 4.18 mL | C(CCC)[Li]
reactant | DMF | 11.14 mmol, 0.86 mL | CN(C)C=O | C3H7NO
reactant | Water | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(3-Formylphenyl)-4,6,7-trimethyl-1-benzofuran | C(=O)C=1C=C(C=CC1)C1=COC2=C1C(=CC(=C2C)C)C | C18H16O2
